US07683060B2
Step 5. 3-[1-(1,3-benzothiazol-6-yl)cyclopropyl]-6-(4-bromophenyl)[1,2,4]triazolo[4,3-b][1,2,4]triazine
A mixture of 6-(4-bromophenyl)-3-hydrazino-1,2,4-triazine (20.0 mg, 0.0752 mmol) and 1-(1,3-benzothiazol-6-yl)cyclopropanecarboxylic acid (16.5 mg, 0.0752 mmol) in phosphoryl chloride (1 mL) was heated at 130° C. for 8 h. The volatiles were removed under reduced pressure. The residue was dissolved in methanol, and purified by RP-HPLC (pH=10) to give the desired product. LCMC: (M+H)+=448.9/451.0.

reactant | 6-(4-bromophenyl)-3-hydrazino-1,2,4-triazine | 0.0752 mmol, 20.0 mg | BrC1=CC=C(C=C1)C1=CN=C(N=N1)NN | C9H8BrN5
reactant | 1-(1,3-benzothiazol-6-yl)cyclopropanecarboxylic acid | 0.0752 mmol, 16.5 mg | S1C=NC2=C1C=C(C=C2)C2(CC2)C(=O)O | C11H9NO2S
solvent | phosphoryl chloride | 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-[1-(1,3-benzothiazol-6-yl)cyclopropyl]-6-(4-bromophenyl)[1,2,4]triazolo[4,3-b][1,2,4]triazine | S1C=NC2=C1C=C(C=C2)C2(CC2)C2=NN=C1N2N=C(C=N1)C1=CC=C(C=C1)Br | C20H13BrN6S
